### PR TITLE
feat(Order/OmegaCompletePartialOrder): `OmegaCompletePartialOrder` instance for `Sum` with basic `ωScottContinuous` lemmas

### PR DESCRIPTION
**Pull request by YellPika**
This PR adds an `OmegaCompletePartialOrder` instance for `Sum`, along with `ωScottContinuous` lemmas for basic operations (`inl`, `inr`, `elim`). Appropriate lemmas are marked with `@[fun_prop]` so that the `fun_prop` tactic can automatically deduce `ωScottContinuous` proofs for functions involving `Sum`s (e.g. see the proof of `Sum.ωScottContinuous_map`).

---

- [x] depends on: #33941
- [x] depends on: #37258

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Sum/Order.lean [hunk 1]
```diff
@@ -182,6 +182,24 @@ theorem inl_strictMono : StrictMono (inl : α → α ⊕ β) := fun _ _ => LiftR
 
 theorem inr_strictMono : StrictMono (inr : β → α ⊕ β) := fun _ _ => LiftRel.inr
 
+theorem elim_mono {δ : Type*} [Preorder δ]
+    {f : α → β → γ} (hf : Monotone (Function.uncurry f))
+    {g : α → δ → γ} (hg : Monotone (Function.uncurry g))
+    {h : α → β ⊕ δ} (hh : Monotone h)
+    : Monotone (fun x ↦ (h x).elim (f x) (g x)) := by
```
Comment (Vierkantor) [inline Mathlib/Data/Sum/Order.lean]: (The general rule is that operators appear at the end of a line.)
```suggestion
    {h : α → β ⊕ δ} (hh : Monotone h) :
    Monotone (fun x ↦ (h x).elim (f x) (g x)) := by
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 2]
```diff
@@ -156,6 +157,67 @@ def pair (a b : α) (hab : a ≤ b) : Chain α where
...
+
+@[simp]
+lemma toSum_inl (c : Chain α) : toSum (inl c : Chain (α ⊕ β)) = .inl c := rfl
+
+@[simp]
+lemma toSum_inr (c : Chain β) : toSum (inr c : Chain (α ⊕ β)) = .inr c := rfl
+
+@[elab_as_elim]
+lemma sum_cases
+    {p : Chain (α ⊕ β) → Prop} (inl : ∀ c, p (inl c)) (inr : ∀ c, p (inr c))
```
Comment (Vierkantor) [inline Mathlib/Order/OmegaCompletePartialOrder.lean]: We prefer to keep the declaration name and its parameters on one line, like this:
```suggestion
lemma sum_cases {p : Chain (α ⊕ β) → Prop} (inl : ∀ c, p (inl c)) (inr : ∀ c, p (inr c))
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 3]
```diff
@@ -156,6 +157,67 @@ def pair (a b : α) (hab : a ≤ b) : Chain α where
     (pair a₁ a₂ ha).zip (pair b₁ b₂ hb) = pair (a₁, b₁) (a₂, b₂) (Prod.le_def.2 ⟨ha, hb⟩) := by
   unfold Chain; ext n : 2; cases n <;> rfl
 
+/-- Left injection for chains of sums. -/
+def inl (c : Chain α) : Chain (α ⊕ β) := c.map ⟨.inl, Sum.inl_mono⟩
+
+@[simp]
+lemma inl_coe (c : Chain α) (n : ℕ) : inl (β := β) c n = .inl (c n) := rfl
```
Comment (Vierkantor) [inline Mathlib/Order/OmegaCompletePartialOrder.lean]: I would argue we should name this `inl_apply` instead, but apparently that is the naming convention in this file?

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 4]
```diff
@@ -156,6 +157,67 @@ def pair (a b : α) (hab : a ≤ b) : Chain α where
...
+
+/-- Right injection for chains of sums. -/
+def inr (c : Chain β) : Chain (α ⊕ β) := c.map ⟨.inr, Sum.inr_mono⟩
+
+@[simp]
+lemma inr_coe (c : Chain β) (n : ℕ) : inr (α := α) c n = .inr (c n) := rfl
+
+/-- Projects left values out of a chain.
+If the chain contains right values, then a default value is returned. -/
```
Comment (Vierkantor) [inline Mathlib/Order/OmegaCompletePartialOrder.lean]: To make clear when "contains right values" applies exactly, what do you think about a remark like:
```suggestion
If the chain contains right values (chains can contain only left values, or only right values),
then a default value is returned. -/
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 5]
```diff
@@ -156,6 +157,67 @@ def pair (a b : α) (hab : a ≤ b) : Chain α where
...
+  toFun n := Sum.elim id (fun _ ↦ default) (c n)
+  monotone' := Sum.elim_mono monotone_snd monotone_const c.monotone
+
+@[simp]
+lemma projl_coe [hA : Inhabited α] (c : Chain (α ⊕ β)) (n : ℕ) :
+    projl c n = Sum.elim id (fun _ ↦ default) (c n) :=
+  rfl
+
+/-- Projects right values out of a chain.
+If the chain contains left values, then a default value is returned. -/
```
Comment (Vierkantor) [inline Mathlib/Order/OmegaCompletePartialOrder.lean]:
```suggestion
If the chain contains left values (chains can contain only left values, or only right values),
then a default value is returned. -/
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 6]
```diff
@@ -156,6 +157,67 @@ def pair (a b : α) (hab : a ≤ b) : Chain α where
...
+lemma inr_coe (c : Chain β) (n : ℕ) : inr (α := α) c n = .inr (c n) := rfl
+
+/-- Projects left values out of a chain.
+If the chain contains right values, then a default value is returned. -/
+def projl [hA : Inhabited α] (c : Chain (α ⊕ β)) : Chain α where
+  toFun n := Sum.elim id (fun _ ↦ default) (c n)
+  monotone' := Sum.elim_mono monotone_snd monotone_const c.monotone
+
+@[simp]
+lemma projl_coe [hA : Inhabited α] (c : Chain (α ⊕ β)) (n : ℕ) :
```
Comment (Vierkantor) [inline Mathlib/Order/OmegaCompletePartialOrder.lean]: We don't use the name `hA` so we can leave it off:
```suggestion
def projl [Inhabited α] (c : Chain (α ⊕ β)) : Chain α where
  toFun n := Sum.elim id (fun _ ↦ default) (c n)
  monotone' := Sum.elim_mono monotone_snd monotone_const c.monotone

@[simp]
lemma projl_coe [Inhabited α] (c : Chain (α ⊕ β)) (n : ℕ) :
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 7]
```diff
@@ -156,6 +157,67 @@ def pair (a b : α) (hab : a ≤ b) : Chain α where
...
+    projl c n = Sum.elim id (fun _ ↦ default) (c n) :=
+  rfl
+
+/-- Projects right values out of a chain.
+If the chain contains left values, then a default value is returned. -/
+def projr [hB : Inhabited β] (c : Chain (α ⊕ β)) : Chain β :=
+  projl (c.map ⟨Sum.swap, Sum.swap_mono⟩)
+
+@[simp]
+lemma projr_coe [hB : Inhabited β] (c : Chain (α ⊕ β)) (n : ℕ) :
```
Comment (Vierkantor) [inline Mathlib/Order/OmegaCompletePartialOrder.lean]:
```suggestion
def projr [Inhabited β] (c : Chain (α ⊕ β)) : Chain β :=
  projl (c.map ⟨Sum.swap, Sum.swap_mono⟩)

@[simp]
lemma projr_coe [Inhabited β] (c : Chain (α ⊕ β)) (n : ℕ) :
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 8]
```diff
@@ -156,6 +157,67 @@ def pair (a b : α) (hab : a ≤ b) : Chain α where
...
+      projr c n = Sum.elim (fun _ ↦ default) id (c n) := by
+  simp [projr]
+
```
Comment (Vierkantor) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:185]: Could you add a pair of lemmas like the following, showing that it suffices to find a single `inl` or `inr` in your chain to prove the whole thing is `inl` or `inr`? (Not sure if it is easiest to prove this first and then derive `sum_cases`, or vice versa.)

```lean4

lemma eq_inl_of_apply_eq_inl [Inhabited α] (c : Chain (α ⊕ β)) {n : ℕ} {x : α}
    (hn : c n = .inl x) : c = inl (projl c) := by
  sorry

lemma eq_inr_of_apply_eq_inr [Inhabited β] (c : Chain (α ⊕ β)) {n : ℕ} {x : β}
    (hn : c n = .inr x) : c = inr (projr c) := by
  sorry

```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 9]
```diff
@@ -156,6 +157,67 @@ def pair (a b : α) (hab : a ≤ b) : Chain α where
...
+  suffices this : Sum.elim .inl .inr (toSum c) = c by
+    rw [← this]
+    cases c.toSum with
+    | inl c => exact inl c
+    | inr c => exact inr c
+  refine Chain.ext (funext fun n ↦ ?_)
+  have hc := c.monotone (Nat.zero_le n)
+  generalize h₀ : c 0 = c0 at ⊢ hc
+  generalize hₙ : c n = cn at ⊢ hc
+  cases hc <;> simp [toSum, h₀, hₙ]
```
Comment (Vierkantor) [inline Mathlib/Order/OmegaCompletePartialOrder.lean]: A bit of proof simplification:

* we might as well reverse the direction of `this` since we use it only in reverse direction,
* the `ext` tactic does `Chain.ext` and `funext` automatically.

```suggestion
  suffices c = Sum.elim .inl .inr (toSum c) by
    rw [this]
    cases c.toSum with
    | inl c => exact inl c
    | inr c => exact inr c
  ext n
  have hc := c.monotone (Nat.zero_le n)
  generalize h₀ : c 0 = c0 at ⊢ hc
  generalize hₙ : c n = cn at ⊢ hc
  cases hc <;> simp [toSum, h₀, hₙ]
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 10]
```diff
@@ -233,6 +295,11 @@ lemma ωSup_eq_of_isLUB {c : Chain α} {a : α} (h : IsLUB (Set.range c) a) : a
   · rw [ωSup_le_iff]
     apply h.1
 
+lemma ωSup_congr {c₁ c₂ : Chain α} (hc : ∀ n, c₁ n = c₂ n) : ωSup c₁ = ωSup c₂ := by
+  congr 1
+  ext n
+  apply hc
```
Comment (Vierkantor) [inline Mathlib/Order/OmegaCompletePartialOrder.lean]: (Optional:) A simple proof like this could also be written in term style, like this:
```suggestion
lemma ωSup_congr {c₁ c₂ : Chain α} (hc : ∀ n, c₁ n = c₂ n) : ωSup c₁ = ωSup c₂ :=
  congr_arg _ <| DFunLike.ext _ _ hc
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 11]
```diff
@@ -458,6 +525,73 @@ lemma ωScottContinuous_snd : ωScottContinuous (Prod.snd : α × β → β) :=
...
+    · simp only [ωSup_inr, elim_inr, hg.map_ωSup₂]
+      apply ωSup_congr fun _ ↦ ?_
+      simp [hc']
+
+@[fun_prop]
+lemma ωScottContinuous_map
+    {f : α → β → γ} (hf : ωScottContinuous (Function.uncurry f))
+    {g : α → δ → γ} (hf : ωScottContinuous (Function.uncurry g))
+    {h : α → β ⊕ δ} (hh : ωScottContinuous h)
+    : ωScottContinuous (fun x ↦ Sum.map (f x) (g x) (h x)) := by
```
Comment (Vierkantor) [inline Mathlib/Order/OmegaCompletePartialOrder.lean]:
```suggestion
    {h : α → β ⊕ δ} (hh : ωScottContinuous h) :
    ωScottContinuous (fun x ↦ Sum.map (f x) (g x) (h x)) := by
```

**Review by Vierkantor — COMMENTED** [review]
Overall nice results and neatly written: most of my remarks are more stylistic. I'd like a review from someone who worked with Scott continuity more to confirm the last few results.

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 3 above)
Comment (YellPika) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: In addition to being the naming convention in this file, the `@[simps]` for `OrderHom` (`Chain α := ℕ →o α`) is set up to produce lemmas named `*_coe`. Which is bizzare as `Mathlib.Order.Hom.Basic` is full of lemmas named `_apply`...

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 8 above)
Comment (YellPika) [reply Mathlib/Order/OmegaCompletePartialOrder.lean:185]: I have added these lemmas, but replaced `apply` with `coe` for consistency.

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 3 above)
Comment (Vierkantor) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: We should definitely fix that (in a separate PR).

File: Mathlib/Data/Sum/Order.lean [hunk 12]
```diff
@@ -177,6 +177,24 @@ theorem inl_strictMono : StrictMono (inl : α → α ⊕ β) := fun _ _ => LiftR
...
+    {g : α → δ → γ} (hg : Monotone (Function.uncurry g))
+    {h : α → β ⊕ δ} (hh : Monotone h) :
+    Monotone (fun x ↦ (h x).elim (f x) (g x)) := by
+  intro x₁ x₂ hx
+  dsimp
+  have hhx := hh hx
+  generalize h x₁ = hx₁ at ⊢ hhx
+  generalize h x₂ = hx₂ at ⊢ hhx
+  cases hhx with
+  | inl hhx => exact hf (Prod.GCongr.mk_le_mk hx hhx)
```
Comment (vihdzp) [inline Mathlib/Data/Sum/Order.lean]: These `GCongr` lemmas are implementation details. Is there no `Prod.mk_le_mk` we can use?

**Review by vihdzp — COMMENTED** [review]
I'm not very familiar with scott continuity either, sorry.

File: Mathlib/Data/Sum/Order.lean (hunk 12 above)
Comment (YellPika) [reply Mathlib/Data/Sum/Order.lean]: There is! I missed it somehow. Fixed.

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: Fixing it in #37258. Could you please adapt here already?

Comment (YellPika) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: I've fixed the names that I've added.

**Comment by YellPika** [comment]
-awaiting-author

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 13]
```diff
@@ -233,6 +304,9 @@ lemma ωSup_eq_of_isLUB {c : Chain α} {a : α} (h : IsLUB (Set.range c) a) : a
   · rw [ωSup_le_iff]
     apply h.1
 
+lemma ωSup_congr {c₁ c₂ : Chain α} (hc : ∀ n, c₁ n = c₂ n) : ωSup c₁ = ωSup c₂ :=
```
Comment (vihdzp) [inline Mathlib/Order/OmegaCompletePartialOrder.lean]: This seems like a weird lemma to have, the `congr!` tactic should be able to do this for you.

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 14]
```diff
@@ -156,6 +157,76 @@ def pair (a b : α) (hab : a ≤ b) : Chain α where
     (pair a₁ a₂ ha).zip (pair b₁ b₂ hb) = pair (a₁, b₁) (a₂, b₂) (Prod.le_def.2 ⟨ha, hb⟩) := by
   unfold Chain; ext n : 2; cases n <;> rfl
 
+/-- Left injection for chains of sums. -/
+def inl (c : Chain α) : Chain (α ⊕ β) := c.map ⟨.inl, Sum.inl_mono⟩
```
Comment (vihdzp) [inline Mathlib/Order/OmegaCompletePartialOrder.lean]: Maybe instead of having this, we should have `Sum.inl` as an `OrderEmbedding`?

Comment (YellPika) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: I have added `Sum.inl` as both an `OrderEmbedding` and a `OrderHom` (the latter of which is required for `Chain.inl`). Ditto for `Sum.inr`.

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 13 above)
Comment (YellPika) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: The `congr!` tactic does not seem to be able to deal with `Chain` (i.e., it will just reduce `ωSup c₁ = ωSup c₂` to `c₁ = c₂`). The documentation mentions that `congr!` will apply `(h)funext` when it sees a function type, but I don't see any mechanism to extend to `FunLike` types.

Comment (YaelDillies) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: The mechanism will come once #37258 is merged

File: Mathlib/Data/Sum/Order.lean [hunk 15]
```diff
@@ -507,6 +525,44 @@ end Lex
...
+def inr : β ↪o α ⊕ β where
+  toFun := Sum.inr
+  inj' := Sum.inr_injective
+  map_rel_iff' := by simp
+
+end OrderEmbedding
+
+/-! ### Order homomorphisms -/
+
+namespace OrderHom
```
Comment (vihdzp) [inline Mathlib/Data/Sum/Order.lean]: These seem redundant.

Comment (YellPika) [reply Mathlib/Data/Sum/Order.lean]: I have removed them in favor of `OrderEmbedding.{inl,inr}.toOrderHom`.

File: Mathlib/Data/Sum/Basic.lean [hunk 16]
```diff
@@ -30,6 +30,11 @@ theorem elim_swap {α β γ : Type*} {f : α → γ} {g : β → γ} :
     Sum.elim f g ∘ Sum.swap = Sum.elim g f := by
   grind
 
+@[simp]
+theorem elim_swap_apply {α β γ : Type*} {f : α → γ} {g : β → γ} {x : β ⊕ α} :
```
Comment (YaelDillies) [inline Mathlib/Data/Sum/Basic.lean]:
```suggestion
theorem elim_swap {α β γ : Type*} {f : α → γ} {g : β → γ} {x : β ⊕ α} :
```
and the previous lemma should be called `elim_comp_swap`

File: Mathlib/Data/Sum/Order.lean [hunk 17]
```diff
@@ -178,6 +178,24 @@ theorem inl_strictMono : StrictMono (inl : α → α ⊕ β) := fun _ _ => LiftR
 
 theorem inr_strictMono : StrictMono (inr : β → α ⊕ β) := fun _ _ => LiftRel.inr
 
+theorem elim_mono {δ : Type*} [Preorder δ]
```
Comment (YaelDillies) [inline Mathlib/Data/Sum/Order.lean]:
```suggestion
@[fun_prop]
theorem _root.Monotone.sumElim {δ : Type*} [Preorder δ]
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 18]
```diff
@@ -164,6 +165,64 @@ def pair (a b : α) (hab : a ≤ b) : Chain α where
...
+
+/-- Right injection for chains of sums. -/
+@[simps!]
+def inr (c : Chain β) : Chain (α ⊕ β) := c.map OrderEmbedding.inr.toOrderHom
+
+/-- Projects left values out of a chain.
+If the chain contains right values (chains can contain only left values, or only right values),
+then a default value is returned. -/
+@[simps]
+def projl [Inhabited α] (c : Chain (α ⊕ β)) : Chain α where
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean]:
```suggestion
def projL [Inhabited α] (c : Chain (α ⊕ β)) : Chain α where
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 19]
```diff
@@ -164,6 +165,64 @@ def pair (a b : α) (hab : a ≤ b) : Chain α where
...
+  toFun n := Sum.elim id (fun _ ↦ default) (c n)
+  monotone' := Sum.elim_mono monotone_snd monotone_const c.monotone
+
+/-- Projects right values out of a chain.
+If the chain contains left values (chains can contain only left values, or only right values),
+then a default value is returned. -/
+@[simps!]
+def projr [Inhabited β] (c : Chain (α ⊕ β)) : Chain β :=
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean]:
```suggestion
def projR [Inhabited β] (c : Chain (α ⊕ β)) : Chain β :=
```

File: Mathlib/Data/Sum/Basic.lean (hunk 16 above)
Comment (YellPika) [reply Mathlib/Data/Sum/Basic.lean]: Fixed :+1:

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 18 above)
Comment (YellPika) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: Fixed :+1:

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 19 above)
Comment (YellPika) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: Fixed :+1:

File: Mathlib/Data/Sum/Order.lean (hunk 17 above)
Comment (YellPika) [reply Mathlib/Data/Sum/Order.lean]: I have renamed the `theorem`, but I cannot add the attribute: `Monotone` is not (yet) set up with `fun_prop`.

(I think it certainly ought to be, but that should be a different PR.)

Comment (YaelDillies) [reply Mathlib/Data/Sum/Order.lean]: Ah, sad. Thanks for investigating!

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 20]
```diff
@@ -164,6 +165,64 @@ def pair (a b : α) (hab : a ≤ b) : Chain α where
...
+@[simp]
+lemma toSum_inl (c : Chain α) : toSum (inl c : Chain (α ⊕ β)) = .inl c := rfl
+
+@[simp]
+lemma toSum_inr (c : Chain β) : toSum (inr c : Chain (α ⊕ β)) = .inr c := rfl
+
+@[elab_as_elim]
+lemma sum_cases {p : Chain (α ⊕ β) → Prop} (inl : ∀ c, p (inl c)) (inr : ∀ c, p (inr c))
+    (c : Chain (α ⊕ β)) : p c := by
+  suffices this : c = Sum.elim .inl .inr (toSum c) by
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean]: Could this be a separate simp lemma once turned around?

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 21]
```diff
@@ -164,6 +165,64 @@ def pair (a b : α) (hab : a ≤ b) : Chain α where
...
+    rw [this]
+    cases c.toSum with
+    | inl c => exact inl c
+    | inr c => exact inr c
+  ext n
+  have hc : c 0 ≤ c n := c.monotone (Nat.zero_le n)
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean]:
```suggestion
  have hc : c 0 ≤ c n := c.monotone n.zero_le
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 22]
```diff
@@ -164,6 +165,64 @@ def pair (a b : α) (hab : a ≤ b) : Chain α where
...
+  generalize h₀ : c 0 = c0 at ⊢ hc
+  generalize hₙ : c n = cn at ⊢ hc
+  cases hc <;> simp [toSum, h₀, hₙ]
+
+lemma eq_inl_of_coe_eq_inl [Inhabited α] (c : Chain (α ⊕ β)) {n : ℕ} {x : α}
+    (hn : c n = .inl x) : c = inl (projL c) := by
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean]: We almost always make the LHS of lemmas more complicated than the RHS

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 20 above)
Comment (YellPika) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: Yes, fixed :+1:

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 21 above)
Comment (YellPika) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: Fixed :+1:

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 22 above)
Comment (YellPika) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: I see. Fixed :+1+

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 23]
```diff
@@ -164,6 +165,66 @@ def pair (a b : α) (hab : a ≤ b) : Chain α where
...
+@[elab_as_elim]
+lemma sum_cases {p : Chain (α ⊕ β) → Prop} (inl : ∀ c, p (inl c)) (inr : ∀ c, p (inr c))
+    (c : Chain (α ⊕ β)) : p c := by
+  rw [←elim_toSum c]
+  cases c.toSum with
+  | inl c => exact inl c
+  | inr c => exact inr c
+
+lemma eq_inl_of_coe_eq_inl [Inhabited α] (c : Chain (α ⊕ β)) {n : ℕ} {x : α}
+    (hn : c n = .inl x) : inl (projL c) = c := by
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean]:
```suggestion
lemma inl_projL_of_apply_eq_inl [Inhabited α] (c : Chain (α ⊕ β)) {n : ℕ} {x : α}
    (hn : c n = .inl x) : inl (projL c) = c := by
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 24]
```diff
@@ -164,6 +165,66 @@ def pair (a b : α) (hab : a ≤ b) : Chain α where
...
+
+/-- Projects right values out of a chain.
+If the chain contains left values (chains can contain only left values, or only right values),
+then a default value is returned. -/
+@[simps!]
+def projR [Inhabited β] (c : Chain (α ⊕ β)) : Chain β :=
+  projL (c.map ⟨Sum.swap, Sum.swap_mono⟩)
+
+/-- Splits a chain of sums into a sum of chains. -/
+def toSum (c : Chain (α ⊕ β)) : Chain α ⊕ Chain β :=
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean]: Can you not strengthen this to an equiv?

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 23 above)
Comment (YellPika) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: Fixed :+1: (along with `inr_projR_of_apply_eq_inr`)

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 24 above)
Comment (YellPika) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: :+1:

I've turned `toSum` into a `Equiv`, which also simplified some of the other proofs. Perhaps I ought to remove `inl` and `inr` and just use `toSum.symm` instead?

File: Mathlib/Data/Sigma/Order.lean [hunk 25]
```diff
@@ -11,6 +11,8 @@ public import Mathlib.Data.Sigma.Basic
 public import Mathlib.Order.BoundedOrder.Basic
 public import Mathlib.Order.Lattice
 public import Mathlib.Order.Lex
+public import Mathlib.Logic.Function.Basic
+public import Mathlib.Tactic.MkIffOfInductiveProp
```
Comment (YaelDillies) [inline Mathlib/Data/Sigma/Order.lean]: What happened here?

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 26]
```diff
@@ -164,6 +165,79 @@ def pair (a b : α) (hab : a ≤ b) : Chain α where
...
+
+/-- Right injection for chains of sums. -/
+@[simps!]
+def inr (c : Chain β) : Chain (α ⊕ β) := c.map OrderEmbedding.inr.toOrderHom
+
+/-- Projects left values out of a chain.
+If the chain contains right values (chains can contain only left values, or only right values),
+then a default value is returned. -/
+@[simps]
+def projL [Inhabited α] (c : Chain (α ⊕ β)) : Chain α where
```
Comment (vihdzp) [inline Mathlib/Order/OmegaCompletePartialOrder.lean]: It's generally a better idea to provide an explicit default value, rather than using the `Inhabited` typeclass. See for instance `Option.getD`.

File: Mathlib/Data/Sigma/Order.lean (hunk 25 above)
Comment (YellPika) [reply Mathlib/Data/Sigma/Order.lean]: I did a bad merge and had to rebase. I guess these snuck in somehow...

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 26 above)
Comment (YellPika) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: I have added an explicit default value parameter to `projL` and `projR`.

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 24 above)
Comment (YaelDillies) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: Yes, I think you should remove `inl` and `inr`

Comment (YellPika) [reply Mathlib/Order/OmegaCompletePartialOrder.lean]: I have removed `inl` and `inr`. It made the signature for `sum_cases` considerably more complicated, so I have replaced it with `toSum_cases`.

**Comment by Komyyy** [comment]
@YellPika 
If you are ready for review, please comment `-awaiting-author`.
